US04922015
Methyl 4-(4-methoxybenzoyl)-2-methylphenoxyacetate
50 g of 4-hydroxy-3-methyl-4'-methoxybenzophenone (R. Martin et al. Monatsh. Chemie 110, 1057-1066 (1979)) are dissolved in 200 ml of dry DMF and, under N2, 9 g of a 55% dispersion of sodium hydride in mineral oil are cautiously added. Then, while stirring, 19.5 ml of methyl bromoacetate are added dropwise, and the mixture is left to stand at room temperature overnight. The precipitated salt is filtered off with suction, and the filtrate is concentrated in vacuo. The residue is taken up in ethyl acetate, and the solution is washed with sodium bicarbonate solution and water. The organic phase is dried over magnesium sulfate, and the solvent is removed in vacuo. The residue is triturated with ether, filtered off with suction and dried.

reactant | 4-hydroxy-3-methyl-4'-methoxybenzophenone | 50 g | OC1=C(C=C(C(=O)C2=CC=C(C=C2)OC)C=C1)C | C15H14O3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl bromoacetate | 19.5 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | Methyl 4-(4-methoxybenzoyl)-2-methylphenoxyacetate | COC1=CC=C(C(=O)C2=CC(=C(OCC(=O)OC)C=C2)C)C=C1 | C18H18O5
